US07105515B2
To a solution of 712 mg (13.2 mMol) of sodium methoxide in 100 ml of methanol are added 850 mg (264 mMol) of N-[1H-indol-5-yl]naphthalene-1-sulphonamide followed by 596 mg (5.28 mMol) of 1-methyl-4-piperidone and the resulting solution is heated to reflux for 48 hours. The reaction mixture is concentrated at reduced pressure and the residue obtained is purified by chromatography over silica gel, using as eluent mixtures of methylene chloride/methanol/ammonia, to yield 573 mg (52%) of N-[3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-yl]naphthalene-1-sulphonamide as a solid with m.p.=244-245° C.

reactant | sodium methoxide | 13.2 mMol, 712 mg | C[O-].[Na+]
reactant | N-[1H-indol-5-yl]naphthalene-1-sulphonamide | 264 mMol, 850 mg | N1C=CC2=CC(=CC=C12)NS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C18H14N2O2S
reactant | 1-methyl-4-piperidone | 5.28 mMol, 596 mg | CN1CCC(CC1)=O | C6H11NO
solvent | methanol | 100 ml | CO | CH4O
product | N-[3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-yl]naphthalene-1-sulphonamide | 573 mg, 52% | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C24H23N3O2S
